US08304419B2
6-chloro-2-fluoro-3-methylphenol (3.3 g, 20.55 mmol) and 18-crown-6 (1.086 g, 4.11 mmol) were dissolved in dry DMSO (50 mL) and treated with 20% potassium t-butoxide in THF (11.50 g, 20.55 mmol) for 15 minutes at room temperature. 1-bromo-2,5-dichloro-3-fluorobenzene (7.21 g, 29.6 mmol) was added in one portion and the reaction mixture heated at 110° C. for 3 days at which time LC-MS indicated nearly complete consumption of phenol and formation of a major new product. Addition of water to the reaction mixture resulted in a brown gummy oil which was extracted with EtOAc. The organic phase was isolated, washed with brine four times, dried over MgSO4, filtered and concentrated to dryness to give a brown syrup. This material was filtered through a plug of 45 g silica gel which was eluted with 500 mL DCM. The filtrate was concentrated to an amber oil and crystallized from EtOH and a few drops of water. This mixture was cooled in an ice bath, filtered, and the precipitate washed with three portions of cold EtOH to give 2-[(3-bromo-2,5-dichlorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene (4.0 g, 10.40 mmol, 50.6% yield) as a cream solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.73 (s, 1H), 7.29-7.47 (m, 2H), 6.81 (s, 1H), 2.29 (s, 3H).

reactant | 6-chloro-2-fluoro-3-methylphenol | 20.55 mmol, 3.3 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | 18-crown-6 | 4.11 mmol, 1.086 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 20.55 mmol, 11.50 g | C1CCOC1 | C4H8O
reactant | 1-bromo-2,5-dichloro-3-fluorobenzene | 29.6 mmol, 7.21 g | BrC1=C(C(=CC(=C1)Cl)F)Cl | C6H2BrCl2F
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 2-[(3-bromo-2,5-dichlorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene | 10.40 mmol, 4.0 g, 50.6% yield | BrC=1C(=C(C=C(C1)Cl)OC1=C(C=CC(=C1F)C)Cl)Cl | C13H7BrCl3FO
